US07405219B2
7-(2-Furyl)-3-(2-pyridylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (Example 24)
A solution of 6-(2-furyl)-5-nitro-N4-(2-pyridylmethyl)pyrimidine-2,4-diamine (270 mg, 0.864 mmol) and 10% Pd/C (92 mg, 0.086 mmol) in EtOH (30 mL) and EtOAc (10 mL) was stirred under an hydrogen atmosphere for 1 h, filtered through Celite and concentrated in vacuo. The resulting yellow oil was dissolved in dioxane (25 mL), treated with isoamyl nitrite (0.109 mL, 0.815 mmol), stirred at 100° C. for 6 h, cooled to room temperature, filtered through Celite, concentrated in vacuo and triturated with Et2O to give the title compound (110 mg, 46%) as a yellow solid.

reactant | 6-(2-furyl)-5-nitro-N4-(2-pyridylmethyl)pyrimidine-2,4-diamine | 0.864 mmol, 270 mg | O1C(=CC=C1)C1=C(C(=NC(=N1)N)NCC1=NC=CC=C1)[N+](=O)[O-] | C14H12N6O3
reactant | isoamyl nitrite | 0.815 mmol, 0.109 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | EtOH | 30 mL | CCO | C2H6O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.086 mmol, 92 mg | [Pd] | Pd
product | 7-(2-Furyl)-3-(2-pyridylmethyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 110 mg, 46% | O1C(=CC=C1)C=1C2=C(N=C(N1)N)N(N=N2)CC2=NC=CC=C2 | C14H11N7O
